US05703246
Trans-2-(4-Methoxyphenyl)-3-phenyl-1-(4-methylphenylsulphonyl)aziridine
4-Methoxybenzaldehyde (1.22 ml, 10 mmol) and p-toluenesulphonamide (1.71 g, 10 mmol) were refluxed in toluene (70 ml) for 5 minutes using a Dean and Stark apparatus. Reflux was maintained while BF3 (C2 H5)2O (0.05 ml, 0.4 mmol) was added via a syringe. The reaction mixture was maintained at reflux for 12 hours before being allowed to cool to room temperature whereby the title compound precipitated from the toluene. Filtration followed by recrystallisation from dichloromethane-petrol yielded N-(4-methoxybenzylidene)-toluene-p-sulphonamide as a yellow solid (0.478 g; 17%) m.p. 127° C.

reactant | 4-Methoxybenzaldehyde | 10 mmol, 1.22 ml | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | p-toluenesulphonamide | 10 mmol, 1.71 g | C1(=CC=C(C=C1)S(=O)(=O)N)C | C7H9NO2S
reactant | BF3 | B(F)(F)F | BF3
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | Trans-2-(4-Methoxyphenyl)-3-phenyl-1-(4-methylphenylsulphonyl)aziridine | COC1=CC=C(C=C1)[C@@H]1N([C@H]1C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C22H21NO3S
